US06410592B1
B: Methyl 1-phenyl-2-(methylaminomethyl)-1,2,3,4-tetrahydronaphthalene-6-carboxylate
To a mixture of 1-phenyl-2-[methyl(phenylmethyl)aminomethyl]-3,4-dihydronaphthalene-6-carboxylic acid methyl ester (4.20 g), methyl alcohol (120 cm3) and hydrochloric acid (5 M, 2.4 cm3) was added palladium on charcoal (5%, 500 mg). The resulting suspension was stirred at 50° C. under a hydrogen atmosphere (5 atm) for 18 h. Upon cooling the mixture was filtered through a pad of Dicalite® and the solvent was evaporated under reduced pressure to afford the title compound (3.49 g, 95%) as a white powder.

reactant | 1-phenyl-2-[methyl(phenylmethyl)aminomethyl]-3,4-dihydronaphthalene-6-carboxylic acid methyl ester | 4.20 g | COC(=O)C=1C=C2CCC(=C(C2=CC1)C1=CC=CC=C1)C(NCC1=CC=CC=C1)C | C27H27NO2
reactant | hydrochloric acid | 5 M, 2.4 cm3 | Cl | ClH
catalyst | palladium on charcoal | 500 mg | [Pd] | Pd
solvent | methyl alcohol | 120 cm3 | CO | CH4O
product | Methyl 1-phenyl-2-(methylaminomethyl)-1,2,3,4-tetrahydronaphthalene-6-carboxylate | 3.49 g, 95% | C1(=CC=CC=C1)C1C(CCC2=CC(=CC=C12)C(=O)OC)CNC | C20H23NO2
